US04007177
After stirring a mixture of 6.7 g. of ethyl chloromethylthioacetate, 5 g. of sodium azide and 15 ml. of dimethylformamide for 17 hours at 45° C., the reaction mixture was diluted with 150 ml. of ether, followed by washing with water for three times. By drying the ether layer over magnesium sulfate and then distilling it under reduced pressure, 6.1 g. of ethyl azidomethylthioacetate was obtained as a liquid having a boiling point of 77° - 80° C. (3 mm Hg.).

reactant | ethyl chloromethylthioacetate | ClCCC(=S)OCC | C5H9ClOS
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | ether | CCOCC | C4H10O
product | ethyl azidomethylthioacetate | N(=[N+]=[N-])CCC(=S)OCC | C5H9N3OS
